US08912180B2
To a mixture of tert-butyl (3S)-3-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-ylpyrimidin-2-yl}amino)pyrrolidine-1-carboxylate (300 mg) and 1,4-dioxane (3 mL) was added a 4 M solution (1.5 mL) of hydrogen chloride in 1,4-dioxane, and the mixture was stirred at room temperature for 2 hours. To the reaction mixture was added diisopropyl ether (10 mL). The resulting powder was collected by filtration, washed with diisopropyl ether, and dried under reduced pressure to obtain 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-pyrrolidin-3-yl]pyrimidin-2-amine dihydrochloride (354 mg) as a pale yellow powder.

reactant | tert-butyl (3S)-3-({4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-ylpyrimidin-2-yl}amino)pyrrolidine-1-carboxylate | 300 mg | FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CN(CC1)C(=O)OC(C)(C)C)C=CC=C2)F | C25H31F2N7O3
reactant | hydrogen chloride | Cl | ClH
reactant | diisopropyl ether | 10 mL | C(C)(C)OC(C)C | C6H14O
solvent | 1,4-dioxane | O1CCOCC1 | C4H8O2
solvent | 1,4-dioxane | 3 mL | O1CCOCC1 | C4H8O2
product | 4-[2-(difluoromethyl)-1H-benzimidazol-1-yl]-6-morpholin-4-yl-N-[(3S)-pyrrolidin-3-yl]pyrimidin-2-amine dihydrochloride | 354 mg | Cl.Cl.FC(C1=NC2=C(N1C1=NC(=NC(=C1)N1CCOCC1)N[C@@H]1CNCC1)C=CC=C2)F | InChI=1S/C20H23F2N7O.2ClH/c21-18(22)19-25-14-3-1-2-4-15(14)29(19)17-11-16(28-7-9-30-10-8-28)26-20(27-17)24-13-5-6-23-12-13;;/h1-4,11,13,18,23H,5-10,12H2,(H,24,26,27);2*1H/t13-;;/m0../s1
